US05716936
A The process is performed as described in Example 1A, but starting with 1.5 g of tert-butyl (2RS,4SR,5RS)-4-(4-dimethylaminophenyl)sulphonyl-1-{2-[3-(3-ethoxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-2-pyrrolidinecarboxylate and 0.12 g of potassium hydroxide in a mixture of 60 cm3 of methanol and 20 cm3 of distilled water. After treatment, 0.12 g of (2RS,4SR,5RS)-3-(3-{2-[2-tert-butoxycarbonyl-4-(4-dimethylaminophenyl)sulphonyl-5-(2-fluorophenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid is obtained [Rf=0.4; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (250 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 393 K, δ in ppm): 1.52 (s, 9H: C(CH3)3); 2.43 and 2.77 (2 mts, 1H each: CH2 at 3); 3.04 (s, 6H: N(CH3)2); 3.63 and 3.99 (broad d and d respectively, J=17 Hz, 1H each: COCH2N); 3.86 (mt, 1H: H4); 4.56 (broad t, J=8 Hz, 1H: H2); 5.71 (d, J=3 Hz, 1H: H5); 6.81 (d, J=8.5 Hz, 2H: H of the aromatic at 4 (H ortho to the N(CH3)2)); from 7.00 to 7.70 (mt, 6H: aromatic H); 7.68 (d, J=8.5 Hz, 2H: H of the aromatic at 4 (H meta to the N (CH3)2)); 7.80 (mt 1H: H of the aromatic at 5 (H6)); 8.00 (mt, 1H: aromatic H (H2: ortho to the COOH))].

reactant | tert-butyl (2RS,4SR,5RS)-4-(4-dimethylaminophenyl)sulphonyl-1-{2-[3-(3-ethoxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-2-pyrrolidinecarboxylate | 1.5 g | CN(C1=CC=C(C=C1)S(=O)(=O)C1CC(N(C1C1=C(C=CC=C1)F)C(CNC(=O)NC1=CC(=CC=C1)C(=O)OCC)=O)C(=O)OC(C)(C)C)C | C35H41FN4O8S
reactant | potassium hydroxide | 0.12 g | [OH-].[K+]
solvent | methanol | 60 cm3 | CO | CH4O
solvent | water | 20 cm3 | O | H2O
product | (2RS,4SR,5RS)-3-(3-{2-[2-tert-butoxycarbonyl-4-(4-dimethylaminophenyl)sulphonyl-5-(2-fluorophenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid | 0.12 g | C(C)(C)(C)OC(=O)C1N(C(C(C1)S(=O)(=O)C1=CC=C(C=C1)N(C)C)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C33H37FN4O8S
